US09227971B2
A 50 mL round-bottomed flask was charged with 2-(5-bromo-3-fluoropyridin-2-yl)propan-2-ol (Int-5a) (0.5 g, 2.15 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.1 g, 4.29 mmol), potassium acetate (0.63 g, 6.44 mmol), PdCl2(dppf).CH2Cl2(0.17 g, 0.22 mmol). The reaction vessel was sealed with a rubber septum, flushed with Argon and 1,4-dioxane (10 mL) added to the reaction. The reaction mixture was stirred at 80° C. for 2 hours at which point TLC and LC-MS indicated full consumption of the starting material. The solvent was removed in vacuo and the residue was partitioned between dichloromethane and water. The organic layer was dried (Na2SO4) and concentrated in vacuo to afford crude product 2-(3-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)propan-2-ol which was used in the next reaction without further purification.

reactant | 2-(5-bromo-3-fluoropyridin-2-yl)propan-2-ol | 2.15 mmol, 0.5 g | BrC=1C=C(C(=NC1)C(C)(C)O)F | C8H9BrFNO
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 4.29 mmol, 1.1 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 6.44 mmol, 0.63 g | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | 0.22 mmol, 0.17 g | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(3-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)propan-2-ol | FC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)C(C)(C)O | C14H21BFNO3
